US07273878B2
To 5 ml of tetrahydrofuran were dissolved 0.56 g (1.8 mmol) of 4,4-difluoro-3-methyl-3-butenyl 2-methanesulfonyl-4-methylpyrimidine-5-carboxylate and 0.21 g (1.9 mmol) of thiophenol, followed by the addition of 0.30 g (2.8 mmol) of sodium carbonate and stirring at room temperature for 1 hour. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (ethyl acetate:hexane=1:8) to obtain 0.54 g (yield: 88%) of 4,4-difluoro-3-methyl-3-butenyl 4-methyl-2-(phenylthio)pyrimidine-5-carboxylate.

reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | 4,4-difluoro-3-methyl-3-butenyl 2-methanesulfonyl-4-methylpyrimidine-5-carboxylate | 1.8 mmol, 0.56 g | CS(=O)(=O)C1=NC=C(C(=N1)C)C(=O)OCCC(=C(F)F)C | C12H14F2N2O4S
reactant | thiophenol | 1.9 mmol, 0.21 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium carbonate | 2.8 mmol, 0.30 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 4,4-difluoro-3-methyl-3-butenyl 4-methyl-2-(phenylthio)pyrimidine-5-carboxylate | 0.54 g, yield: 88% | CC1=NC(=NC=C1C(=O)OCCC(=C(F)F)C)SC1=CC=CC=C1 | C17H16F2N2O2S
